US08314092B2
To a suspension of methyl 3-[4-(7-chloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate (28.0 g, 65.27 mmoles) in a mixture of isopropyl alcohol (150 mL) and water (150 mL) add sodium hydroxide (3 equiv; 7.83 g, 195.82 mmoles) and heat at 70° C. for 4 h to give a clear solution. Heat at 70° C. for a further 1 h then cool slightly. Add 5M hydrochloric acid to give pH 8 and precipitate a white solid. Add further 5M hydrochloric acid to give a pH between 6.5 and 7. Reduce the volume of solvent by half and then chill the flask in a fridge for 0.5 h. Collect the resulting white solid by filtration and dry overnight in a vacuum oven at 40° C. over phosphorus pentoxide to give 3-[4-(7-chloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoic acid (26.5 g, 98% yield). MS (m/z): 415.3 (M+1). DSC melting point=246.5° C. (onset).

reactant | methyl 3-[4-(7-chloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoate | 65.27 mmoles, 28.0 g | ClC=1C=CC2=C(CN3C(C(=N2)N2CCN(CC2)CC(C(=O)OC)(C)C)=CC(=C3)C)C1 | C23H29ClN4O2
reactant | sodium hydroxide | 195.82 mmoles, 7.83 g, 3 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | isopropyl alcohol | 150 mL | C(C)(C)O | C3H8O
solvent | water | 150 mL | O | H2O
product | 3-[4-(7-chloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepin-11-yl)piperazin-1-yl]-2,2-dimethylpropanoic acid | 26.5 g, 98% yield | ClC=1C=CC2=C(CN3C(C(=N2)N2CCN(CC2)CC(C(=O)O)(C)C)=CC(=C3)C)C1 | C22H27ClN4O2
